US06316482B1
To a solution of benzyl indole-4-carboxylate (1.85 g) and N,N-dimethylaminopyridine (180 mg) in acetonitrile (10 ml) was added portionwise di-tert-butyl dicarbonate (1.61 g), and then the mixture was stirred at ambient temperature for 2 hours and stand overnight. The resulting mixture was concentrated in vacuo and the residue was diluted with ethyl acetate (30 ml). The organic layer was washed successively with 1N hydrochloric acid, saturated sodium bicarbonate aqueous solution and brine. The solution was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=10:1) to give benzyl 1-tert-butoxycarbonylindole-4-carboxylate (2.26 g).

reactant | benzyl indole-4-carboxylate | 1.85 g | N1C=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | di-tert-butyl dicarbonate | 1.61 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | benzyl 1-tert-butoxycarbonylindole-4-carboxylate | 2.26 g | C(C)(C)(C)OC(=O)N1C=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1 | C21H21NO4
